US05994569
Swern reagent was prepared at -78° C. by adding slowly 1.6 ml of abs. DMSO, dissolved in 4 ml of CH2Cl2, to 0.908 ml of oxalylchloride in 26 ml of CH2Cl2.15 minutes later, 3.27 g of (S)-2-[(4aR,5S,8aS)-5-(tert-butyldimethyl-silanyloxy)-8a-methyl-3,4,4a,5,6,7,8,8a-octahydronaphthalen-1-yl]-propan-1-ol (synthesis described in ref. Ex. 12) dissolved in 11 ml of CH2Cl2, were slowly added. After 0.3 h, 4.6 ml of NEt3 were added dropwise and the temperature allowed to reach -15° C. The reaction was quenched by pouring onto crushed ice/NH4Cl, extracted with ether, washed with water and brine, dried over magnesium sulfate and evaporated to dryness. Flash chromatography (SiO2, hexane/AcOEt=97/3) yielded (S)-2-[(4aR,5S,8aS)-5-(tert-butyldimethyl-silanyloxy)-8a-methyl-3,4,4a,5,6,7,8,8a-octa-hydro-naphthalen-1-yl]-propionaldehyde in nearly quantitative yield.

reactant | DMSO | CS(=O)C | C2H6OS
reactant | (S)-2-[(4aR,5S,8aS)-5-(tert-butyldimethyl-silanyloxy)-8a-methyl-3,4,4a,5,6,7,8,8a-octahydronaphthalen-1-yl]-propan-1-ol | 3.27 g | C(C)(C)(C)[Si](O[C@@H]1[C@@H]2CCC=C([C@]2(CCC1)C)[C@@H](CO)C)(C)C | C20H38O2Si
reactant | NEt3 | 4.6 ml | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 4 ml | C(Cl)Cl | CH2Cl2
solvent | oxalylchloride | 0.908 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | CH2Cl2 | 26 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 11 ml | C(Cl)Cl | CH2Cl2
product | (S)-2-[(4aR,5S,8aS)-5-(tert-butyldimethyl-silanyloxy)-8a-methyl-3,4,4a,5,6,7,8,8a-octa-hydro-naphthalen-1-yl]-propionaldehyde | quantitative yield | C(C)(C)(C)[Si](O[C@@H]1[C@@H]2CCC=C([C@]2(CCC1)C)[C@@H](C=O)C)(C)C | C20H36O2Si
